US04027028
(2-allylphenoxyethyl) bromide
Using the procedure described in Example I step A and starting from 43.5 g o-allylphenol and 140 g dibromoethane, 35 g of crude product are produced which after distillation under reduced pressure give 14 g of pure compound. The latter boils at 150°-154° under 18-20 mm Hg.

reactant | o-allylphenol | 43.5 g | C(C=C)C1=C(C=CC=C1)O | C9H10O
reactant | dibromoethane | 140 g | BrC(C)Br | C2H4Br2
product | (2-allylphenoxyethyl) bromide | 14 g | C(C=C)C1=C(OCCBr)C=CC=C1 | C11H13BrO
